US08802673B2
To a stirred solution of tert-butyl (RS)-2-(6-(5-bromopyridin-2-ylamino)-5-methylpyridin-3-yl)morpholine-4-carboxylate (26 mg) in acetonitrile (1.5 ml) and water (4.5 ml) was added trifluoroacetic acid (45 μl). The reaction mixture was then capped and the mixture was shaken at 80° C. for 3 h. The reaction mixture was then cooled to room temperature and poured into EtOAc/THF (1:1) and washed with 1 M aq. NaOH. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (Isolute® Flash-NH2 from Separtis; gradient: heptane/EtOAc/MeOH) to afford (RS)—N-(5-bromopyridin-2-yl)-3-methyl-5-(morpholin-2-yl)pyridin-2-amine (11 mg, 54%) as a colourless amorphous solid. MS (ISP): 351.1 ([{81Br}M+H]+), 349.1 ([{79Br}M+H]+).

reactant | tert-butyl (RS)-2-(6-(5-bromopyridin-2-ylamino)-5-methylpyridin-3-yl)morpholine-4-carboxylate | 26 mg | BrC=1C=CC(=NC1)NC1=C(C=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C)C | C20H25BrN4O3
reactant | trifluoroacetic acid | 45 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | EtOAc THF | CCOC(=O)C.C1CCOC1
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | water | 4.5 ml | O | H2O
product | (RS)—N-(5-bromopyridin-2-yl)-3-methyl-5-(morpholin-2-yl)pyridin-2-amine | 11 mg, 54% | BrC=1C=CC(=NC1)NC1=NC=C(C=C1C)C1CNCCO1 | C15H17BrN4O
